US05288748
8-Chloro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene
To a solution of 53 g (0.23 mol) 8-chloro-2-(n-propyl)amino-1,2,3,4-tetrahydronaphthalene and 50 ml triethylamine in 500 ml dichloromethane was added dropwise 33 ml (40 g, 0.28 mol) benzoylchloride. After stirring over night at room temperature, 10% sodium carbonate was added and the mixture was shaken and separated. The organic phase was dried (magnesium sulphate), filtered and evaporated yielding 72 g (95%) raw product.

reactant | 8-chloro-2-(n-propyl)amino-1,2,3,4-tetrahydronaphthalene | 0.23 mol, 53 g | ClC=1C=CC=C2CCC(CC12)NCCC | C13H18ClN
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | 0.28 mol, 33 ml, 40 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 8-Chloro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene | 72 g, 95% | ClC=1C=CC=C2CCC(CC12)NC(C1=C(C=CC=C1)CCC)=O | C20H22ClNO
